* /home/radhadk260501/esim-workspace/radha_johnson_counter/radha_johnson_counter.cir

.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__r+c.model.spice"
.lib "/usr/share/local/sky130_fd_pr/models/sky130.lib.spice" tt
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__linear.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__pnp.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__inductors.model.spice"
* u2  net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ counter_module
* u3  clk t net-_u2-pad1_ net-_u2-pad2_ adc_bridge_2
* u4  net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ a b c d dac_bridge_4
xsc7 net-_sc1-pad2_ clk net-_sc1-pad3_ sky130_fd_pr__res_generic_nd 
xsc8 clk gnd net-_sc1-pad3_ sky130_fd_pr__res_generic_nd 
v2 net-_sc1-pad3_ gnd  dc 1.8
* s c m o d e
* u5  clk plot_v1
* u6  a plot_v1
* u7  b plot_v1
* u8  c plot_v1
* u9  d plot_v1
xsc2 net-_sc1-pad1_ net-_sc1-pad2_ gnd gnd sky130_fd_pr__nfet_01v8_lvt 
xsc4 net-_sc3-pad1_ net-_sc1-pad1_ gnd gnd sky130_fd_pr__nfet_01v8_lvt 
xsc6 net-_sc1-pad2_ net-_sc3-pad1_ gnd gnd sky130_fd_pr__nfet_01v8_lvt 
xsc1 net-_sc1-pad1_ net-_sc1-pad2_ net-_sc1-pad3_ net-_sc1-pad3_ sky130_fd_pr__pfet_01v8_lvt 
xsc3 net-_sc3-pad1_ net-_sc1-pad1_ net-_sc1-pad3_ net-_sc1-pad3_ sky130_fd_pr__pfet_01v8_lvt 
xsc5 net-_sc1-pad2_ net-_sc3-pad1_ net-_sc1-pad3_ net-_sc1-pad3_ sky130_fd_pr__pfet_01v8_lvt 
* u1  t plot_v1
v1  t gnd pulse(0 1.8 0.1 0.1 0.1 1 2)
a1 [net-_u2-pad1_ ] [net-_u2-pad2_ ] [net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ ] u2
a2 [clk t ] [net-_u2-pad1_ net-_u2-pad2_ ] u3
a3 [net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ ] [a b c d ] u4
* Schematic Name:                             counter_module, NgSpice Name: counter_module
.model u2 counter_module(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u3 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_4, NgSpice Name: dac_bridge
.model u4 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 5e-00 15e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(clk)
plot v(a)
plot v(b)
plot v(c)
plot v(d)
plot v(t)
.endc
.end
